US06821972B2
3-(4-Methyl-1-piperazinyl)-2-pyrazinecarbonitrile
To a solution of 3-cyano-2-chloropyrazine (0.45 g, 3.2 mmol) in methanol (10 mL) was added N-methylpiperazine (0.75 mL, 6.4 mmol) and the reaction was stirred at room temperature overnight. The solvent was removed in vacuo, then the residue was dissolved in ethyl acetate. The precipitate was filtered off and the filtrate was concentrated under reduce pressure. The residue was then purified by flash chromatography on silica gel (dichloromethane/methanol 95:5) to give the title compound as a yellow oil (0.59 g).

reactant | 3-cyano-2-chloropyrazine | 3.2 mmol, 0.45 g | C(#N)C=1C(=NC=CN1)Cl | C5H2ClN3
reactant | N-methylpiperazine | 6.4 mmol, 0.75 mL | CN1CCNCC1 | C5H12N2
solvent | methanol | 10 mL | CO | CH4O
product | 3-(4-Methyl-1-piperazinyl)-2-pyrazinecarbonitrile | 0.59 g | CN1CCN(CC1)C=1C(=NC=CN1)C#N | C10H13N5
